US06271225B1
Thieno[2,3-b][1,5]benzoxazepin-4(5H)-one (2 g) was suspended in acetic acid (30 ml) and a solution of bromine (1.5 g) in acetic acid (10 ml) was added dropwise over 30 minutes. The mixture was stirred at room temperature for 35 minutes and poured into water. The precipitated crystals were collected by filtration and washed with water and diisopropyl ether to give 2-bromothieno[2,3-b][1,5]benzoxazepin-4(5H)-one (2.2 g).

reactant | Thieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 2 g | S1C=CC2=C1OC1=C(NC2=O)C=CC=C1 | C11H7NO2S
reactant | bromine | 1.5 g | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-bromothieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 2.2 g | BrC1=CC2=C(OC3=C(NC2=O)C=CC=C3)S1 | C11H6BrNO2S
